US03994890
By the procedure similar to that described in Example 13, 3-phenyl-5-methylindazole (4.17 g) and diallylaminopropyl chloride (4.17 g) were treated to obtain 4.3 g of 1-diallylaminopropyl-3-phenyl-5-methylindazole hydrochloride (m.p. 81°-82° C).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | diallylaminopropyl chloride | 4.17 g | C(C=C)N(CC=C)CCCCl | C9H16ClN
product | 1-diallylaminopropyl-3-phenyl-5-methylindazole hydrochloride | 4.3 g | Cl.C(C=C)N(C(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1)CC=C | InChI=1S/C23H27N3.ClH/c1-5-15-26(16-6-2)20(7-3)21-17(4)13-14-19-22(21)23(25-24-19)18-11-9-8-10-12-18;/h5-6,8-14,20H,1-2,7,15-16H2,3-4H3,(H,24,25);1H
